US04731374
2,6-Diamino-4,5,6,7-tetrahydro-benzthiazole-dihydrobromide
3 g (0.01 Mol) of 6-acetylamino-2-amino-4,5,6,7-tetrahydro-benzthiazole-hydrobromide are dissolved in 20 ml of semi-concentrated hydrobromic acid and refluxed for 6 hours. The solution is then concentrated by evaporation and the residue recrystallized from methanol.

reactant | 6-acetylamino-2-amino-4,5,6,7-tetrahydro-benzthiazole-hydrobromide | 0.01 Mol, 3 g | Br.C(C)(=O)NC1CC2=C(N=C(S2)N)CC1
solvent | hydrobromic acid | 20 ml | Br | BrH
product | 2,6-Diamino-4,5,6,7-tetrahydro-benzthiazole-dihydrobromide | Br.Br.NC=1SC2=C(N1)CCC(C2)N | InChI=1S/C7H11N3S.2BrH/c8-4-1-2-5-6(3-4)11-7(9)10-5;;/h4H,1-3,8H2,(H2,9,10);2*1H
